US06699995B1
Methyl 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropionate
A mixture of methyl 2-chloro-4-(4-trifluoromethylphenyl)-5-oxazolepropionate (1.33 g), 2-methylimidazole (1.33 g), potassium carbonate (2.00 g) and N-methylpyrrolidone (10 mL) was stirred at 110° C. for 2 h. The reaction mixture was poured into iced water (100 mL), and the precipitated crystals were collected by filtration, washed with water and air-dried to give the title compound as crystals. Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals (1.07 g, 71%). melting point: 94-95° C.

reactant | methyl 2-chloro-4-(4-trifluoromethylphenyl)-5-oxazolepropionate | 1.33 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OC | C14H11ClF3NO3
reactant | 2-methylimidazole | 1.33 g | CC=1NC=CN1 | C4H6N2
reactant | potassium carbonate | 2.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | Methyl 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropionate | CC=1N(C=CN1)C=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OC | C18H16F3N3O3
